US07666871B2
2-Amino-4-benzyloxy-butyric acid hydrochloride salt
In a round bottom flask containing 4-benzyloxy-2-tert-butoxycarbonylamino-butyric acid (1.0 mmol), add 1M hydrochloric acid in ether (1.7 mmol) and stir at room temperature for two days. The product precipitates out as the hydrochloride salt. Collect by centrifugation in which the mother liquor is decanted off of the product. Rinse two times with ether, transfer solid to a flask and concentrate in vacuo.

reactant | 4-benzyloxy-2-tert-butoxycarbonylamino-butyric acid | 1.0 mmol | C(C1=CC=CC=C1)OCCC(C(=O)O)NC(=O)OC(C)(C)C | C16H23NO5
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | ether | 1.7 mmol | CCOCC | C4H10O
product | 2-Amino-4-benzyloxy-butyric acid hydrochloride salt | Cl.NC(C(=O)O)CCOCC1=CC=CC=C1 | InChI=1S/C11H15NO3.ClH/c12-10(11(13)14)6-7-15-8-9-4-2-1-3-5-9;/h1-5,10H,6-8,12H2,(H,13,14);1H
